US03987087
(2-Carboxyethyl) triphenylphosphonium Bromide.
A mixture of 3-bromopropionic acid (50 g.), triphenylphosphine (85.8 g.) and acetonitrile (250 ml.) is heated under reflux for 23 hrs. and then 166 ml. of acetonitrile is removed by distillation. After cooling the remaining solution to room temperature, benzene (250 ml.) is added and the mixture is allowed to stand for 16 hrs. The solid which separates is removed by filtration to give 120.5 g. of the title compound, m.p. 197°-200°; infrared absorptions at 2900, 2610, 2540, 1745, 1620, 1585, 1485, 1435, 1385, 1325, 1230, 1110, 750, 725 and 690 cm-1 ; NMR peaks at 2.7-3.3 (broad), 3.5-4.2 (broad) and 7.6-7.9 (multiplet) δ.

reactant | 3-bromopropionic acid | 50 g | BrCCC(=O)O | C3H5BrO2
reactant | triphenylphosphine | 85.8 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | acetonitrile | 250 ml | C(C)#N | C2H3N
product | (2-Carboxyethyl) triphenylphosphonium Bromide | [Br-].C(=O)(O)CC[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C21H19O2P.BrH/c22-21(23)16-17-24(18-10-4-1-5-11-18,19-12-6-2-7-13-19)20-14-8-3-9-15-20;/h1-15H,16-17H2;1H
